US07332631B2
Preparation of 4-[(2E)-3-phenylprop-2-enoyl]benzoic acid (VIB 237)
To a mixture of 4-carboxyacetophenone (250 mg, 1.52 mmole) and benzaldehyde (161.6 mg, 1.52 mmole) in absolute ethanol (4 ml), NaOH (25% w/v, 4 ml) was added and allowed to stir at RT for 2 days. Water was added and the mixture acidified to pH 4. The precipitate was filtered, dried and recrystalized with methanol to yield product (98 mg). m/z 251 (M−1)+1HNMR (DMSO) δ 7.4-7.92 (7H, m, ArH & ═CH), 8.09 (2H, d, 2×ArH), 8.19 (2H, d, 2×ArH).

reactant | benzaldehyde | 1.52 mmole, 161.6 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | Water | O | H2O
reactant | ethanol | 4 ml | C(C)O | C2H6O
solvent | NaOH | 4 ml | [OH-].[Na+]
product | 4-[(2E)-3-phenylprop-2-enoyl]benzoic acid | 98 mg | C1(=CC=CC=C1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C16H12O3
